US07244843B2
Cold trifluoroacetic acid (2 mL) was added to cold 1,1-dimethylethyl 1,2,3,4,11,11a-hexahydropyrazino[1,2-b][1,2]benzothiazine-2-carboxylate 6,6-dioxide (151 mg, 0.446 mmol). After 1 h, the reaction was concentrated in vacuo. The residue was partitioned between dichloromethane (10 mL) and 0.5 N sodium carbonate (2 mL). The organic layer was dried (sodium sulfate) and concentrated in vacuo. The residue was chromatographed (Diacel Chiracel OJ, 5×50 cm, 35% 1:1 methanol/ethanol:hexanes containing 0.3% triethylamine, 50 mL/min). Fractions containing the more rapidly eluting enantiomer concentrated in vacuo. The residue was taken up in 50% aqueous methanol (1 mL) and was loaded onto a 1-g methanol-activated water-equilibrated SCX-type cation exchange column. The column was washed with water (5 mL) and 25% aqueous methanol (5 mL). The column was eluted with 2 N methanolic ammonia. Concentration of this fraction in vacuo provided (−)1,2,3,4,11,11a-hexahydropyrazino[1,2-b][1,2]benzothiazine 6,6-dioxide: LCMS (pos. ion spectrum) m/z 239.

reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 1,1-dimethylethyl 1,2,3,4,11,11a-hexahydropyrazino[1,2-b][1,2]benzothiazine-2-carboxylate 6,6-dioxide | 0.446 mmol, 151 mg | C1N(CCN2S(C3=C(CC21)C=CC=C3)(=O)=O)C(=O)OC(C)(C)C | C16H22N2O4S
product | (−)1,2,3,4,11,11a-hexahydropyrazino[1,2-b][1,2]benzothiazine 6,6-dioxide | C1NCCN2S(C3=C(CC21)C=CC=C3)(=O)=O | C11H14N2O2S
